US09034866B2
Synthesis of (±)-9-fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-10-(3-hydroxy-3-m ethylbut-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
9-Fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was prepared similarly according to General Procedure E with slight modification. 10-bromo-9-fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with 3-methyl-1-butyne-3-ol in a solution of DMF (1.3 mL/mmol) and diisopropylamine (2.6 mL/mmol) to afford the title compound which was carried forward to the next step without further purification.

reactant | 10-bromo-9-fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(C3=CC=NN3C3OCCCC3)O)C1)F | C23H23BrFN5O3
reactant | 3-methyl-1-butyne-3-ol | CC(C#C)(C)O | C5H8O
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | (±)-9-fluoro-3-(hydroxy(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)methyl)-10-(3-hydroxy-3-m ethylbut-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | FC1=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(C3=CC=NN3C3OCCCC3)O)C=C1C#CC(C)(C)O | C28H30FN5O4
